* source PROJECT
X_U1         N02240 0 N02573 3.3V 0 N02764 N02757 N01247 CHASIS N01247 N01903
+  CHASIS CHASIS N15218 N02240 AMC3330
C_C2         CHASIS N01247  1u  TC=0,0 
C_C3         CHASIS N01247  1n  TC=0,0 
C_C4         N01247 CHASIS  100n  TC=0,0 
C_C5         CHASIS N01903  100n  TC=0,0 
C_C6         CHASIS N01903  1n  TC=0,0 
C_C7         0 N02240  100n  TC=0,0 
X_U2         N02770 N02759 3.3V 0 N02985 TLV6001
R_R1         N02759 N02757  10k TC=0,0 
R_R2         N02770 N02764  10k TC=0,0 
R_R3         N02985 N02759  8.25k TC=0,0 
V_V4         N34976 0 1.65V
R_R5         N34976 N02770  8.25K TC=0,0 
C_C8         0 3.3V  1u  TC=0,0 
C_C9         0 3.3V  1n  TC=0,0 
V_V5         N00298 0 90
C_C10         N02985 N02759  1n  TC=0,0 
C_C11         0 3.3V  100n  TC=0,0 
V_V6         N28394 0 12V
C_C12         0 N28394  1u  TC=0,0 
C_C13         0 N28882  10n  TC=0,0 
C_C14         0 3.3V  2.2u  TC=0,0 
X_U3         N28394 0 N28394 N28882 3.3V LP2985-33
X_S3    N33797 0 N25400 N00298 SCHEMATIC1_S3 
X_S2    N34013 0 0 N25400 SCHEMATIC1_S2 
V_V7         N33797 0 0Vdc
V_V8         N34013 0 0Vdc
C_C19         0 3.3V  1n  TC=0,0 
X_U4         N37750 0 N37922 3.3V 0 N38200 N38266 N37666 0 N37666 N38024 N38112
+  N38112 N38186 N37750 AMC3330
C_C24         0 3.3V  100n  TC=0,0 
R_R8         N38550 N38200  10k TC=0,0 
C_C16         0 N37666  1n  TC=0,0 
C_C22         N38112 N38024  100n  TC=0,0 
R_R6         N38364 N38372  16.5k TC=0,0 
C_C17         0 N37750  100n  TC=0,0 
C_C21         N38112 N38024  1n  TC=0,0 
C_C18         N37666 0  100n  TC=0,0 
X_U5         N38550 N38372 3.3V 0 N38364 TLV6001
C_C15         0 N37666  1u  TC=0,0 
V_V9         N38648 0 1.65V
R_R7         N38372 N38266  10k TC=0,0 
C_C20         0 3.3V  1u  TC=0,0 
R_R9         N38648 N38550  16.5k TC=0,0 
C_C23         N38364 N38372  1n  TC=0,0 
V_V10         N38805 0 90
R_R10         0 N39190  2.48k TC=0,0 
R_R11         N38805 N39190  264.5k TC=0,0 
C_C25         N38648 N38550  1n  TC=0,0 
R_R14         N25400 N00819  68.1k TC=0,0 
R_R16         N00819 N15218  1000 TC=0,0 
R_R17         CHASIS N00819  120 TC=0,0 
C_C26         CHASIS N15218  1n  TC=0,0 
R_R18         3.3V N02573  10k TC=0,0 
R_R19         N39190 N38186  100 TC=0,0 
R_R20         0 N38112  100 TC=0,0 
C_C27         N38112 N38186  1n  TC=0,0 
R_R21         3.3V N37922  10k TC=0,0 
R_R22         0 CHASIS  1000k TC=0,0 
C_C28         N38200 N38266  1n  TC=0,0 
R_R23         CHASIS N00298  1000k TC=0,0 

.subckt SCHEMATIC1_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1Meg Ron=1 Voff=0 Von=3
.ends SCHEMATIC1_S3

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1Meg Ron=1 Voff=0 Von=3
.ends SCHEMATIC1_S2
