.subckt ACS37030 IP+ IP- DUT_GND VREF VOUT VDD
Rp IP+ IP- 0.68m
XSet_BW N002 N003 N002 opamp Aol=100K GBW=7MEG
B§OutputStage N003 DUT_GND V=delay(((V(IP+)-V(IP-))/0.68m*{sensitivity}+(1.65), .016u))
B§VSat_High N001 DUT_GND V=3
XBuffer N002 VOUT N001 N004 VOUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
B§ICC DUT_GND VDD I=20mA
B§VSat_Low N004 DUT_GND V=150m
B§Set_VREF VREF DUT_GND V=1.65V
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS37030
.end
