.subckt ACS724 IP+ IP- DUT_GND VCC Viout Filter
Rp IP+ IP- 1.2m
B1 N002 DUT_GND V=if({polarity}== 2,delay((V(IP+)-V(IP-))/1.2m*{Sensitivity}*(V(Vcc)/5)+(V(Vcc)/2), 1.4u), delay((V(IP+)-V(IP-))/1.2m*{Sensitivity}*(V(Vcc)/5)+(V(Vcc)/10), 1.4u))
R_F N003 N002 1.8k
I1 DUT_GND VCC 10mA
B§VSat_High1 N001 DUT_GND V=V(VCC)-0.3
VSat_Low1 N004 DUT_GND 300mV
XBuffer1 N003 Viout N001 N004 Viout level2 Avol=1Meg GBW=120k Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.lib opamp.sub
.lib UniversalOpAmp2.lib
.backanno
.ends ACS724
.end