* source NON IDEAL CAP
X_C1    N00182 N00216 SCHEMATIC1_C1 
V_V1         N00182 0 DC 0Vdc AC 2Vac 
R_R1         0 N00216  1k TC=0,0 
E_U1         N00297 0 VALUE {LIMIT(V(N00216,N00297)*1E6,-15V,+15V)}

.subckt SCHEMATIC1_C1 1 2  
C_C1         1 _SR C_C1 100n  
.model         C_C1 CAP C=1 DEV=10% TC1=15 TC2=0 VC1=40 VC2=0 
RESR_C1         _SR _SL 1m 
LESL_C1         _SL 2 476p   
RRP_C1         1 2 500M
.ends SCHEMATIC1_C1
