* source POWERLOSS
V_V1         N00119 GND 52Vdc
V_V2         N00373 GND  
+PULSE 12V 0 0 16n 12n 30u 100u
R_R1         N00373 N00421  5 TC=0,0 
R_R2         N00123 N00119  0.52 TC=0,0 
X_X1         N00123 N00421 GND N01240 VOUT FDB0260N1007L_5P
R_R3         N01240 GND  1M TC=0,0 
V_V3         VOUT GND {Temp}
